US06949551B2
Step 4: methyl 3-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]benzoate (No. 39)
Under an atmosphere of protective gas, 1.85 g of methyl 3-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-hydroxybenzoate, 1.3 g of 3-(5-trifluoromethylpyrid-2-yloxy)-propan-1-ol and 1.64 g of triphenylphosphine were dissolved in 50 ml of dry tetrahydrofuran (THF). With ice-bath cooling, 1.09 g of diethyl azodicarboxylate were added dropwise. After about 30 minutes, the ice-bath was removed, and the mixture was stirred at room temperature for 15 hours. The mixture was then concentrated under reduced pressure and the residue was taken up in a mixture of ethyl acetate and water. After shaking, the organic phase was isolated, dried and concentrated under reduced pressure. The crude product was purified chromatographically. Yield: 1.79 g (59%)

reactant | methyl 3-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-hydroxybenzoate | 1.85 g | ClC=1C(=C(C(=O)OC)C=C(C1)OCC=C(Cl)Cl)O | C11H9Cl3O4
reactant | 3-(5-trifluoromethylpyrid-2-yloxy)-propan-1-ol | 1.3 g | FC(C=1C=CC(=NC1)OCCCO)(F)F | C9H10F3NO2
reactant | triphenylphosphine | 1.64 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.09 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | methyl 3-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]benzoate | ClC=1C(=C(C(=O)OC)C=C(C1)OCC=C(Cl)Cl)OCCCOC1=NC=C(C=C1)C(F)(F)F | C20H17Cl3F3NO5
